US07368578B2
A mixture of {1-benzyl-3-[(3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazol-4-yl}methanol (0.61 g), activated manganese dioxide (2.0 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-[(3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carbaldehyde (0.53 g, yield 88%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 158-159° C.

reactant | {1-benzyl-3-[(3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.61 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)Cl | C27H24ClN3O5
catalyst | manganese dioxide | 2.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-[(3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carbaldehyde | 0.53 g, yield 88% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)Cl | C27H22ClN3O5
